US04576937
Preparation of 7-D-mandelamido-3-(1-sulfomethyltetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid monosodium salt
7-D-Mandelamido-3-(1-sulfomethyltetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid disodium salt (1.0 g) was dissolved in 20 ml of sterile water. The solution was adjusted to pH 2.0 by addition of Amberlite IR-120H resin (less than 1.0 ml), which had been pre-washed with sterile water. The resin was filtered off and the filtrate was lyophilized overnight to give the title compound.

reactant | 7-D-Mandelamido-3-(1-sulfomethyltetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid disodium salt | 1.0 g | [Na+].[Na+].C([C@H](O)C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CS(=O)(=O)O)C(=O)[O-])C1=O.C([C@H](O)C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CS(=O)(=O)O)C(=O)[O-])C1=O
solvent | water | 20 ml | O | H2O
product | 7-D-mandelamido-3-(1-sulfomethyltetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid monosodium salt | [Na+].C([C@H](O)C1=CC=CC=C1)(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CS(=O)(=O)O)C(=O)[O-])C1=O | InChI=1S/C18H18N6O8S3.Na/c25-13(9-4-2-1-3-5-9)14(26)19-11-15(27)24-12(17(28)29)10(6-33-16(11)24)7-34-18-20-21-22-23(18)8-35(30,31)32;/h1-5,11,13,16,25H,6-8H2,(H,19,26)(H,28,29)(H,30,31,32);/q;+1/p-1/t11?,13-,16-;/m1./s1
